US05977101
a) 4-[2-(BOC-methylamino)acetyl]phenol
A solution of di-tert-butyl dicarbonate (5.96 g, 27.3 mmol) in 1,4-dioxane (25 mL) was added dropwise at 0° C. to a mixture of 4-[2-(methylamino)acetyl]phenol hydrochloride (5.0 g, 24.8 mmol), 1,4-dioxane (30 mL), H2O (25 mL) and 1.0 N NaOH (25 mL, 25 mmol). After 24 h, the reaction was warmed to RT and stirred for 1.5 hr. More 1.0 N NaOH (25 mL, 25 mmol) was added, and the reaction was stirred for an additional 0.5 h at RT, then was evaporated on the rotavap. The residue was diluted with EtOAc (80 mL), and the mixture was acidified to pH 2 using 1.0 M NaHSO4. The resulting mixture was extracted with EtOAc, and the combined organic layers were washed with H2O and dried (Na2SO4). Filtration and concentration gave the title compound (6.49 g, 99%): 1H NMR (250 MHz, CDCl3) δ 6.70-8.05 (m, 4 H), 4.53 (s, 2H), 2.98 (s, 3H), 1.50 (s, 9H).

reactant | di-tert-butyl dicarbonate | 27.3 mmol, 5.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-[2-(methylamino)acetyl]phenol hydrochloride | 24.8 mmol, 5.0 g | Cl.CNCC(=O)C1=CC=C(C=C1)O
reactant | H2O | 25 mL | O | H2O
reactant | NaOH | 25 mmol, 1.0 N, 25 mL | [OH-].[Na+]
reactant | NaOH | 25 mmol, 1.0 N, 25 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-[2-(BOC-methylamino)acetyl]phenol | 6.49 g, 99% | C(=O)(OC(C)(C)C)N(CC(=O)C1=CC=C(C=C1)O)C | C14H19NO4
